US06407130B1
f) N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-N-methyl-[3-(4-cyanophenyl)-propionamide]
2-[2-(4-cyanophenyl)-ethyl]-1-methyl-5-methylamino-benzimidazole (0.9 g, 3.1 mmol), 3-(p-cyanophenyl)-propionic acid (0.6 g, 3,4 mmol) and 0.5 mL of N-methylmorpholine are taken up in 10 mL of dimethylformamide. TBTU (1.2 g, 3.7 mmol) is added and the mixture is stirred for 16 h at ambient temperature. After dilution with 75 mL of ethyl acetate the mixture is washed with dilute aqueous NaOH or saturated NaHCO3 solution and with water, dried and evaporated down. The product is crystallised from ethyl acetate/diethylether.

reactant | 2-[2-(4-cyanophenyl)-ethyl]-1-methyl-5-methylamino-benzimidazole | 3.1 mmol, 0.9 g | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)NC | C18H18N4
reactant | 3-(p-cyanophenyl)-propionic acid | 3,4 mmol, 0.6 g | C(#N)C1=CC=C(C=C1)CCC(=O)O | C10H9NO2
reactant | N-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
reactant | TBTU | 3.7 mmol, 1.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-N-methyl-[3-(4-cyanophenyl)-propionamide] | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)N(C(CCC2=CC=C(C=C2)C#N)=O)C | C28H25N5O
